US04582837
2-(2'-Methoxy-3'-methanesulfonyloxy-phenyl)-imidazo[4,5-b]pyridine
Prepared analogously to Example 1 from 2-(2'-methoxy-3'-hydroxy-phenyl)-imidazo[4,5-b]pyridine and methanesulfonic acid chloride.

reactant | 2-(2'-methoxy-3'-hydroxy-phenyl)-imidazo[4,5-b]pyridine | COC1=C(C=CC=C1O)C=1NC=2C(=NC=CC2)N1 | C13H11N3O2
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 2-(2'-Methoxy-3'-methanesulfonyloxy-phenyl)-imidazo[4,5-b]pyridine | COC1=C(C=CC=C1OS(=O)(=O)C)C=1NC=2C(=NC=CC2)N1 | C14H13N3O4S
